US06495581B1
A mixture of 4-(tert-butyldimethylsilyloxy)benzyloxyamine (5.31 g), ethyl 6-oxo-6-phenylhexanoate (6.76 g), acetic acid (3.54 ml), sodium acetate (3.38 g) and ethanol (150 ml) was heated to reflux for 18 hours. The reaction mixture was cooled to room temperature, water was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was dissolved in tetrahydrofuran (100 ml), tetrabutylammonium fluoride trihydrate (10.0 g) was added and stirred at room temperature for 1 hour. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl E-6-(4-hydroxybenzyloxyimino)-6-phenylhexanoate (5.64 g, yield 77%) as a colorless oil from an ethyl acetate-hexane (2:7, v/v)-eluted fraction.

reactant | 4-(tert-butyldimethylsilyloxy)benzyloxyamine | 5.31 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CON)C=C1 | C13H23NO2Si
reactant | ethyl 6-oxo-6-phenylhexanoate | 6.76 g | O=C(CCCCC(=O)OCC)C1=CC=CC=C1 | C14H18O3
reactant | acetic acid | 3.54 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 3.38 g | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl E-6-(4-hydroxybenzyloxyimino)-6-phenylhexanoate | 5.64 g, yield 77% | OC1=CC=C(CO\N=C(/CCCCC(=O)OCC)\C2=CC=CC=C2)C=C1 | C21H25NO4
